US08350100B2
1,2-Difluoro-3-triethylsilylbenzene (5)
625 ml (1 mol) of 1.6 M BuLi are added dropwise at −78° C. to a solution of 114 g (1 ml) of 1,2-difluorobenzene in 11 of dry tetrahydrofuran. After 1 hour, 140 ml (120 g, 1.1 mol) of trimethylsilyl chloride are slowly added dropwise at −78° C. The mixture is allowed to warm to room temperature overnight, and then 200 ml of methyl ter-butyl ether and 200 ml of water are added. The organic phase is washed with water (2×100 ml) and sat. NaCl (1×100 ml) and dried using magnesium sulfate, and the solvent is removed under reduced pressure. 170 g (91%) of 5 distil over from the residue at from 100 to 102° C./70 mbar.

reactant | BuLi | 1 mol, 1.6 M, 625 ml | [Li]CCCC
reactant | 1,2-difluorobenzene | 1 ml, 114 g | FC1=C(C=CC=C1)F | C6H4F2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trimethylsilyl chloride | 1.1 mol, 140 ml, 120 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | methyl ter-butyl ether | 200 ml | C(C)(C)(C)OC | C5H12O
solvent | water | 200 ml | O | H2O
product | 1,2-Difluoro-3-triethylsilylbenzene | FC1=C(C(=CC=C1)[Si](CC)(CC)CC)F | C12H18F2Si
